US20010001101A1
Using an analogous procedure to that described in Example 2, in the section relating to the preparation of starting materials, 8-amino-3-[N-benzyl-N-methylcarbamoyl]-6-fluoroquinoline was reacted with diethyl ethoxymethylenemalonate, and then refluxed in diphenyl ether. The product so obtained was recrystallised from a mixture of ethyl acetate and hexane to give 3-ethoxycarbonyl-8-(N-benzyl-N-methylcarbamoyl)-5-fluoro-4-oxo-3,4-dihydro-l,10-phenanthroline in 70% yield, mp 201-203° C.

reactant | 8-amino-3-[N-benzyl-N-methylcarbamoyl]-6-fluoroquinoline | NC=1C=C(C=C2C=C(C=NC12)C(N(C)CC1=CC=CC=C1)=O)F | C18H16FN3O
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-ethoxycarbonyl-8-(N-benzyl-N-methylcarbamoyl)-5-fluoro-4-oxo-3,4-dihydro-l,10-phenanthroline | 70% yield | C(C)OC(=O)C1C=NC2=C3N=CC(=CC3=CC(=C2C1=O)F)C(N(C)CC1=CC=CC=C1)=O | C24H20FN3O4
